US08975254B2
b) N—((R)-1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide
The title compound was prepared from (R)-3-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide (90 mg, 0.226 mmol) and sodium tetrahydroborate (17 mg, 0.452 mmol) using the method of Example 84. Yield 41 mg. 1H NMR (400 MHz; CDCl3): δ 1.57 (d, 3H), 1.59 (d, 3H), 4.26 (m, 1H), 4.45 (m, 1H), 4.58 (m, 1H), 5.06 (q, 1H), 6.61 (m, 2H), 7.50 (d, 1H), 7.58 (m, 2H), 7.73 (bs, 1H), 10.44 (s, 1H).

reactant | (R)-3-acetyl-N-(1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | 0.226 mmol, 90 mg | C(C)(=O)C1=NNC(=C1)C(=O)N[C@@H](CN1N=C(C=C1)C1=CC(=C(C(=C1)F)C#N)F)C | C19H16F2N6O2
reactant | sodium tetrahydroborate | 0.452 mmol, 17 mg | [BH4-].[Na+]
product | N—((R)-1-(3-(4-cyano-3,5-difluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(1-hydroxyethyl)-1H-pyrazole-5-carboxamide | C(#N)C1=C(C=C(C=C1F)C1=NN(C=C1)C[C@@H](C)NC(=O)C1=CC(=NN1)C(C)O)F | C19H18F2N6O2
